US05298511
Using an analogous procedure to that described in Example 1, 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one was reacted with ethyl 2-(3-hydroxyphenyl)-2-methylbutyrate to give ethyl 2-methyl-2-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]butyrate in 44% yield as a gum.

reactant | 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | ethyl 2-(3-hydroxyphenyl)-2-methylbutyrate | OC=1C=C(C=CC1)C(C(=O)OCC)(CC)C | C13H18O3
product | ethyl 2-methyl-2-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]butyrate | 44% yield | CC(C(=O)OCC)(CC)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C24H27NO4
